US07060827B2
2H-Pyrido[3,2-b]-1,4-oxazin-3(4H)-one (2.5 g) was dissolved in acetic acid (6 mL) and acetic anhydride (30 mL). Fuming nitric acid (3 mL) was added dropwise to the reaction solution in ice-bath. The reaction solution was stirred in ice-bath overnight. Solution was poured into crashed ice. The light yellow precipitation was collected by filtration, washed with water and dried to give a mixture of nitrated products (regio-isomers). The mixture was crystallized from dichloromethane to give 6-nitro-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one (1 g) as a light yellow solid.

reactant | 2H-Pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 2.5 g | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | nitric acid | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-nitro-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 1 g | [N+](=O)([O-])C=1C=CC=2OCC(NC2N1)=O | C7H5N3O4
